### PR TITLE
Modified the definition of sort to work on any type

### PR DESCRIPTION
**Pull request by ybertot**
The sorting algorithm does not really rely on the element type being an eqType.
It may make sense for the proofs, but not for the algorithm per se.  Avoiding the reference to eqType
makes it easier to use the parametricity plugin on this algorithm.

EDIT by Cyril:
- [x] `CHANGELOG_UNRELEASE.md` updated
- [x] documentation updated

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -380,11 +380,55 @@ End EqPath.
 
 (* Ordered paths and sorting. *)
 
+Section abstract_sort.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: Rename section `SortSeq`

File: mathcomp/ssreflect/path.v [hunk 2]
```diff
@@ -380,11 +380,55 @@ End EqPath.
...
+
+Variable T : Type.
+
+Variable leT : rel T.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: Please merge with the previous `Variable` (and hence use `Variables`)

File: mathcomp/ssreflect/path.v [hunk 3]
```diff
@@ -380,11 +380,55 @@ End EqPath.
...
+
+Fixpoint merge_sort_rec ss s :=
+  if s is [:: x1, x2 & s'] then
+    let s1 := if leT x1 x2 then [:: x1; x2] else [:: x2; x1] in
+    merge_sort_rec (merge_sort_push s1 ss) s'
+  else merge_sort_pop s ss.
+
+Definition sort := merge_sort_rec [::].
+
+End abstract_sort.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: While you are at it, you could add to this section everything else that does not depend on `T` being an `eqType`, so at least:
- `sorted` and `path_sorted`,
- and under `Hypothesis leT_total : ...`, put also `merge_path`, `merge_sorted` and `sort_sorted`, and just after the end of the section `rev_sorted` (because the relation changes).

Additionally, you could also try to put `order_path_min`, `sorted_filter`, `size_merge` and `size_sort`  that have a fake dependency in `T` being discrete.

File: mathcomp/ssreflect/path.v [hunk 4]
```diff
@@ -380,11 +380,55 @@ End EqPath.
...
+
 Section SortSeq.
 
 Variable T : eqType.
 Variable leT : rel T.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: You could merge these two `Variable` commands.

File: mathcomp/ssreflect/path.v [hunk 5]
```diff
@@ -380,11 +380,55 @@ End EqPath.
...
+  if s is [:: x1, x2 & s'] then
+    let s1 := if leT x1 x2 then [:: x1; x2] else [:: x2; x1] in
+    merge_sort_rec (merge_sort_push s1 ss) s'
+  else merge_sort_pop s ss.
+
+Definition sort := merge_sort_rec [::].
+
+End abstract_sort.
+
 Section SortSeq.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: Please rename `EqSortSeq`.

File: mathcomp/ssreflect/path.v [hunk 6]
```diff
@@ -380,11 +380,55 @@ End EqPath.
...
 
+Local Notation merge := (merge leT).
+
+Local Notation merge_sort_push := (merge_sort_push leT).
+
+Local Notation merge_sort_pop := (merge_sort_pop leT).
+
+Local Notation merge_sort_rec := (merge_sort_rec leT).
+
+Local Notation sort := (sort leT).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: Keep only `merge`, `sort` and `sorted` (when it is here) and remove empty lines from inbetween `Local Notation` commands.

File: mathcomp/ssreflect/path.v (hunk 5 above)
Comment (ybertot) [reply mathcomp/ssreflect/path.v]: So "abstract_sort -> SortSeq"  and "SortSeq -> EqSortSeq" right?
The rest seems clear.

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: yes

File: mathcomp/ssreflect/path.v [hunk 7]
```diff
@@ -382,17 +382,111 @@ End EqPath.
...
+  exact: IHss ord_ss _ (merge_sorted ord_s ord_s2).
+case: s => [|x1 [|x2 s _]]; try by auto.
+move/ltnW/IHn; apply=> {n IHn s}; set s1 := if _ then _ else _.
+have: sorted s1 by apply: (@merge_sorted [::x2] [::x1]).
+elim: ss {x1 x2}s1 allss => /= [|s2 ss IHss] s1; first by rewrite andbT.
+case/andP=> ord_s2 ord_ss ord_s1.
+by case: {1}s2=> /= [|_ _]; [rewrite ord_s1 | apply: IHss (merge_sorted _ _)].
+Qed.
+
+Lemma size_merge s1 s2 : size (merge s1 s2) = size s1 + size s2.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: In order for this PR to be merged in 1.8.1 (should this release exist), the statement of `size_merge` should not change, so we might want to keep `size (s1 ++ s2)` and you could submit a new PR to change the RHS to `size s1 + size s2`.

Also @ggonthier  recommends to document the introduced variables (instead of using `?`), so I took the liberty to refactor it a little bit. (And we should document this style in CONTRIBUTING.md)
```coq
Lemma size_merge s1 s2 : size (merge s1 s2) = size (s1 ++ s2).
Proof.
rewrite size_cat; elim: s1 s2 => // x s1 IHs1; elim => //= y s2 IHs2.
by case: leT; rewrite /= ?IHs1 ?IHs2.
Qed.
```

File: mathcomp/ssreflect/path.v [hunk 8]
```diff
@@ -382,17 +382,111 @@ End EqPath.
...
+Proof.
+elim: s1 s2 => [// | ? ? IH1 /=]; elim => [// | ? ? IH2 /=].
+by case:ifP => [_ | _] /=; rewrite ?IH2 // IH1 /= !addnS addSn.
+Qed.
+
+Lemma size_sort s : size (sort s) = size s.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: Nice proof, I suggest the following refactoring:
```coq
Local Notation sum_size ss := (sumn (map size ss)).
Lemma size_sort s : size (sort s) = size s.
Proof.
have size_pop r ss : size (merge_sort_pop r ss) = size r + sum_size ss.
  by elim: ss => // s2 ss IHs in r *; rewrite IHs size_merge size_cat addnA.
have size_push r ss : sum_size (merge_sort_push r ss) = size r + sum_size ss.
  elim: ss => [|[|x s'] ss IHss]/= in r *; rewrite ?(addn0, add0n)//.
  by rewrite IHss size_merge ?size_cat/= !addnS addnA.
suff -> ss: size (merge_sort_rec ss s) = sum_size ss + size s by [].
elim: {s}_.+1 {-2}s ss (ltnSn (size s)) => // n IHn.
case=> [|x [|/= y s]] ss; rewrite ?size_pop ?(addn0, addnS)//.
by move=> /ltnW s_small; rewrite IHn// size_push; case: ifP.
Qed.
```

File: mathcomp/ssreflect/path.v [hunk 9]
```diff
@@ -382,17 +382,111 @@ End EqPath.
...
+  else merge_sort_pop s ss.
+
+Definition sort := merge_sort_rec [::].
 
 Definition sorted s := if s is x :: s' then path leT x s' else true.
 
 Lemma path_sorted x s : path leT x s -> sorted s.
 Proof. by case: s => //= y s /andP[]. Qed.
 
-Lemma path_min_sorted x s :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: As I can tell thanks to the CI, you accidentally deleted this very important lemma which should be restored in `EqSortSeq`.

File: mathcomp/ssreflect/path.v [hunk 10]
```diff
@@ -382,17 +382,111 @@ End EqPath.
...
+Variable T : eqType.
+Variable leT : rel T.
+
+Local Notation merge := (merge leT).
+Local Notation merge_sort_push := (merge_sort_push leT).
+Local Notation merge_sort_pop := (merge_sort_pop leT).
+Local Notation merge_sort_rec := (merge_sort_rec leT).
+Local Notation sort := (sort leT).
+Local Notation sorted := (sorted leT).
+Local Notation path_sorted := (@path_sorted _ leT).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: Could you remove all local notations besides `merge`, `sort` and `sorted` (the ones that appear in the statements).

File: mathcomp/ssreflect/path.v [hunk 11]
```diff
@@ -567,7 +597,7 @@ apply: eq_sorted; rewrite ?sort_sorted //.
 by rewrite perm_sort (perm_eqlP eq12) -perm_sort.
 Qed.
 
-End SortSeq.
+End EqSortSeq.
 
 Lemma rev_sorted (T : eqType) (leT : rel T) s :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: `rev_sorted` should be moved at the end of section `EqSortSeq` and generalized

**Comment by CohenCyril** [comment]
@ybertot can you squash everything in one single commit and force push.
Also, the CI was not triggered I am wondering why... perhaps force-pushing will trigger it again?

**Comment by CohenCyril** [comment]
The CI is runnnig on gitlab, but there is no display here... @erikmd would you know why?

File: mathcomp/ssreflect/path.v [hunk 12]
```diff
@@ -377,19 +377,113 @@ Qed.
...
-
 (* Ordered paths and sorting. *)
 
 Section SortSeq.
 
-Variable T : eqType.
-Variable leT : rel T.
+Variables (T : Type) (leT : rel T).
+
+Hypothesis leT_total : total leT.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: This hypothesis comes too early, it is more informative to put it juste before `merge_path`

File: mathcomp/ssreflect/path.v [hunk 13]
```diff
@@ -493,50 +561,15 @@ Qed.
...
-by case: {1}s2=> /= [|_ _]; [rewrite ord_s1 | apply: IHss (merge_sorted _ _)].
-Qed.
-
 Lemma perm_sort s : perm_eql (sort s) s.
 Proof.
 rewrite /sort; apply/perm_eqlP; pose catss := foldr (@cat T) [::].
 rewrite perm_eq_sym -{1}[s]/(catss [::] ++ s).
 elim: {s}_.+1 {-2}s [::] (ltnSn (size s)) => // n IHn s ss.
-have: perm_eq (catss ss ++ s) (merge_sort_pop s ss).
+have: perm_eq (catss ss ++ s) (merge_sort_pop  leT s ss).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: there is one unnecessary space here.

File: mathcomp/ssreflect/path.v [hunk 14]
```diff
@@ -377,19 +377,113 @@ Qed.
...
+have size_push r ss : sum_size (merge_sort_push r ss) = size r + sum_size ss.
+  elim: ss r => [|[|x s'] ss IHss] r/=; rewrite ?(addn0, add0n)//.
+  by rewrite IHss size_merge ?size_cat/= !addnS addnA.
+suff -> ss: size (merge_sort_rec ss s) = sum_size ss + size s by [].
+elim: {s}_.+1 {-2}s ss (ltnSn (size s)) => // n IHn.
+case=> [|x [|/= y s]] ss; rewrite ?size_pop ?(addn0, addnS)//.
+by move=> /ltnW s_small; rewrite IHn// size_push; case: ifP.
+Qed.
+
+End SortSeq.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: `order_path_min` should also be generalized (cf https://github.com/math-comp/math-comp/pull/328#discussion_r275010699) and put here, here is the corrected proof:
```coq
Hypothesis leT_tr : transitive leT.

Lemma order_path_min x s : path leT x s -> all (leT x) s.
Proof.
elim: s => //= y [//|z s] ihs /andP[xy yz]; rewrite xy {}ihs//.
by move: yz => /= /andP[/(leT_tr _)->].
Qed.
```

File: mathcomp/ssreflect/path.v [hunk 15]
```diff
@@ -493,50 +561,15 @@ Qed.
...
-  exact: IHss ord_ss _ (merge_sorted ord_s ord_s2).
-case: s => [|x1 [|x2 s _]]; try by auto.
-move/ltnW/IHn; apply=> {n IHn s}; set s1 := if _ then _ else _.
-have: sorted s1 by apply: (@merge_sorted [::x2] [::x1]).
-elim: ss {x1 x2}s1 allss => /= [|s2 ss IHss] s1; first by rewrite andbT.
-case/andP=> ord_s2 ord_ss ord_s1.
-by case: {1}s2=> /= [|_ _]; [rewrite ord_s1 | apply: IHss (merge_sorted _ _)].
-Qed.
-
 Lemma perm_sort s : perm_eql (sort s) s.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v]: The section hypothesis `leT_total : total leT.` can be moved just before `perm_sort`

**Comment by ggonthier** [comment]
I'm not sure I agree entirely with the basic motivation for this PR: there's little sense in a formal proof library, in providing algorithms stripped of their definitional properties, i.e., in this case providing a function that purports to sort a sequence but leave the user of the library to his own devices when it comes to show that the sorted sequence contains the same items as the initial one, and is not some arbitrary sorted sequence of the same length. The only plausible use case I can come up for this is reflection decision procedures, where sorting is used for performance or the result is checked after interpretation; I have a hard time believing that this would be useful for parametricity and extraction, in this particular case, because the quaint sorting algorithm defined here is hardly high-performance...
   Thus because permutation is quite unwieldy to characterise without the `perm_eq` predicate and its theory, I'd just given up on defining sorting on non-`eqType` sequences. That said, there is a decent way out of this through parametricity: on can and _should_ prove the "free" parametric lemmas
```
merge_map f s1 s2 : merge leT (map f s1) (map f s2) = map f (merge leTf s1 s2)
sort_map f s : sort leT (map f s) = map f (sort leTf s)
sorted_map f s : sorted leT (map f s) = sorted leTf s
```
where `leTf := [rel x y | leT (f x) (f y)].`
   Then permutation can be characterised via the `mkseq_nth` lemma:
```
perm_iota_sort x0 s : {i_s | perm_eq i_s (iota 0 (size s)) & sort s = map (nth x0 s) i_s}
```
which is proved by taking `i_s := sort [rel i j | leT (nth x0 s i) (nth x0 s j)]`. This lemma can also be used
to derive `size_sort` rather than prove it from scratch.

**Comment by ggonthier** [comment]
While you are looking into `sort`, perhaps you could try to address stability. If you look closely you might notice that `merge` shuffles in a somewhat strange order, so as to ensure that `sort` is actually stable. It would make sense to exchange the arguments of `merge` to get a more natural definition, and actually _prove_ stability properties. I've put a plural because I can think of four ways of characterising stability, and think perhaps we should provide all:
```
Hypothesis leT_trans : transitive leT.
mem2_sort s x y : mem2 s x y -> leT x y -> mem2 (sort leT s) x y
subseq_sort t s : subseq t s -> sorted leT t -> subseq t (sort leT s).
mask_sort m s : sorted leT (mask m s) -> {m_s | mask m_s (sort leT s) = mask m s}.
sort_stable leT1 s : sorted leT1 s -> sorted [rel x y | leT x y && (leT y x ==> leT1 x y)] (sort leT s).
```
Do note that the first two require an `eqType` to be stated. I'd lean towards showing the second one first, then deriving the three others as either special cases and/or parametricity.

**Comment by CohenCyril** [comment]
@ybertot please tell me if you want to go through with @ggonthier's recommendations or if you prefer that I do it.

**Comment by ybertot** [comment]
Sorry, I was in a meeting all afternoon.

**Comment by ybertot** [comment]
I think sorted_map is not provable with this statement: counter example: `f x = 0`, `leT = leq`

**Comment by ybertot** [comment]
Sorry, not a counterexample.

**Comment by ybertot** [comment]
There is one unsatisfactory feature:  the definition leTf, which I took directly from @ggonthier's post (like all the rest) but should probably have a better name.

**Comment by CohenCyril** [comment]
> There is one unsatisfactory feature: the definition leTf, which I took directly from @ggonthier's post (like all the rest) but should probably have a better name.

I believe @ggonthier intended this definition to be local (i.e. either as a `Let` or as a `let`, or even a `leTf := ...` in the local context before `:` in the statement). I guess my reply was not clear, I would personally prefer `leT` and `leT'` together with `{homo f : x y / leT x y >-> leT' x y}`, which is closer to the result of the automatic parametricity theorem and covers the case of `leTf`... (BTW I need these general parmetricity theorem for some other development I am currently doing).

**Comment by ggonthier** [comment]
Short remarks:
  - I indended leTf to be a `Let`, not a `Definition`, hence the short name (and no documentation requirement). If it were a definition it would have to be in `ssrbool` (relation preimage, alongside predicate preimage), but the latter is no longer part of MathComp.
  - `order_path_min` should really have `x` and `s` as maximal implicits, as should most lemmas that can be used as views and have totally polymorphic arguments.
  - The precondition for `path_min_sorted` could be stated with `all` rather than `{in ...}`; this would make it possible to prove the lemma in the non-`eqType` section, alongside `order_path_min`.
  - @CohenCyril, you can add your homomorphism lemmas later, but I don't think they're a substitute  for `sort_map` and `sorted_map`, as they can't be used casually as rewrite rules.

**Comment by CohenCyril** [comment]
> * @CohenCyril, you can add your homomorphism lemmas later, but I don't think they're a substitute  for `sort_map` and `sorted_map`, as they can't be used casually as rewrite rules.

I agree that they cannot be a substitute, but from them one can deduce `sort_map` and `sorted_map` as special cases (of the `{mono ...}` lemmas).

**Comment by CohenCyril** [comment]
> * The precondition for `path_min_sorted` could be stated with `all` rather than `{in ...}`; this would make it possible to prove the lemma in the non-`eqType` section, alongside `order_path_min`. You'll have to insert an instance of `apply/allP` where it is used however (once, in `intdiv`).

This would make the patch non backward compatible but desirable... should we have this theorem under a new name, or should we target 1.9.0 instead?

**Comment by ggonthier** [comment]
I suggest `path_min_sorted` and `order_path_min` should be kept together. Just generalising the latter is going to be backward incompatible (this PR has a patch in `abelian`!), but in a minor way. I thought this was for 1.9 anyway (it's not patching any bugs, right?)

**Comment by ggonthier** [comment]
`lemma_overloading` seems broken as well... (though giving `path_order_min` maximal implicit may solve this.
I'm not sure why I preferred not to simplify the RHS of `size_merge`, other than consistency with `perm_merge` and `merge_uniq`. One reason, though, would be to avoid unwanted simplification if `s2` is an explicit cons, and make it easier to use `map_cat` and similar.

**Comment by pi8027** [comment]
@ybertot @CohenCyril 

>> I don't plan to work on the stability lemmas.
>
> I can do it after this PR is merged

I can provide the stability lemmas too if needed because I did it for a more complicated sorting algorithm based on push/pop mechanism. I guess that stability proofs for this algorithm are relatively easy.

**Comment by CohenCyril** [comment]
Just for the record, I wish the following lemmas to be integrated in 1.9.0 whether in this PR or another:
```coq
Section HomoSortSeq.
Variables (T T' : Type) (leT : rel T) (leT' : rel T') (f : T -> T').

Lemma homo_sorted : {homo f : x y / leT x y >-> leT' x y} ->
  {homo map f : s / sorted leT s >-> sorted leT' s}.
Proof. by move=> /homo_path f_path [|//= x s]. Qed.

Section Mono.
Hypothesis f_mono : {mono f : x y / leT x y >-> leT' x y}.

Lemma mono_sorted : {mono map f : s / sorted leT s >-> sorted leT' s}.
Proof. by case=> //= x s; rewrite (mono_path f_mono). Qed.

Lemma map_merge : {morph map f : s1 s2 / merge leT s1 s2 >-> merge leT' s1 s2}.
Proof.
elim=> //= x s1 IHs1; elim => [|y s2 IHs2] //=; rewrite f_mono.
by case: leT; rewrite /= ?IHs1 ?IHs2.
Qed.

Lemma map_sort : {morph map f : s1 / sort leT s1 >-> sort leT' s1}.
Proof.
have map_pop s1 ss : map f (merge_sort_pop leT s1 ss) =
                     merge_sort_pop leT' (map f s1) (map (map f) ss).
  by elim: ss s1 => //= x ss IHss s1; rewrite IHss map_merge.
have map_push s1 ss : map (map f) (merge_sort_push leT s1 ss) =
                     merge_sort_push leT' (map f s1) (map (map f) ss).
  by elim: ss s1 => [|[|y s2] ss IHss s1]//=; rewrite IHss map_merge.
move=> s; rewrite /sort -[[::] in RHS]/(map (map f) [::]).
elim: {s}_.+1 {-2}s [::] (ltnSn (size s)) => // n IHn s ss.
case: s => [|x [|y s]]/=; rewrite ?map_pop//=.
by move=> /ltnW s_small; rewrite IHn ?map_push// f_mono//; case: leT.
Qed.
```

**Comment by ybertot** [comment]
I have no time to work on this PR currently, please proceed without me.

**Comment by CohenCyril** [comment]
> I have no time to work on this PR currently, please proceed without me.

I will take ownership for this PR and do the some changes so that it gets integrated. Further changes can come later.

**Comment by CohenCyril** [comment]
I will let @pi8027 prove stability in another PR (as per https://github.com/math-comp/math-comp/pull/328#issuecomment-485778757).

**Comment by CohenCyril** [comment]
I will let @pi8027 prove stability (cf https://github.com/math-comp/math-comp/pull/328#issuecomment-485778757) in another PR.

**Comment by CohenCyril** [comment]
@ggonthier could we merge this one and let @pi8027 do the stability proofs in a subsequent PR?

File: mathcomp/ssreflect/path.v [hunk 16]
```diff
@@ -159,6 +159,26 @@ End Paths.
 
 Arguments pathP {T e x p}.
 
+Section HomoPath.
+
+Variables (T T' : Type) (leT : rel T) (leT' : rel T').
+
+Lemma homo_path f x s : {homo f : x y / leT x y >-> leT' x y} ->
+  path leT x s -> path leT' (f x) [seq f x | x <- s].
+Proof.
```
Comment (ggonthier) [inline mathcomp/ssreflect/path.v]: The rest of the library doesn't eta-expand generic instances of `map`, as this can lead to unwanted expansion of function operators (e.g., `f \o g`). I do realise the Coq printer now eta-expands on display, but hopefully we'll eventually get some way to disable that behaviour when it's undesirable (as it is for `map`, `filter`, `image`, `codom`, ...).

File: mathcomp/ssreflect/path.v [hunk 17]
```diff
@@ -375,22 +395,201 @@ Qed.
...
-Variable T : eqType.
-Variable leT : rel T.
+Variables (T : Type) (leT : rel T).
+
+Fixpoint merge s1 :=
+  if s1 is x1 :: s1' then
+    let fix merge_s1 s2 :=
+      if s2 is x2 :: s2' then
+        if leT x2 x1 then x2 :: merge_s1 s2' else x1 :: merge s1' s2
+      else s1 in
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: @ggonthier I have started stability proofs with following your suggestions. However, swapping `s1` and `s2` in `merge_sort_push` causes many undesirable unfolding of `merge` by `/=`. 
```
Fixpoint merge_sort_push s1 ss :=
  match ss with
  | [::] :: ss' | [::] as ss' => s1 :: ss'
  | s2 :: ss' => [::] :: merge_sort_push (merge s2 s1) ss'
  end.
```

[the remark this answers is not in the document]
Comment (ggonthier) [reply mathcomp/ssreflect/path.v]: You can always add and `Arguments` declaration so that `merge` does not simplify unless _both_ its arguments expose constructors. That said, because `merge` has an inner loop (to ensure structural recursion), some of the unfoldings will always be unwieldy - I guess you could tidy up by defining `merge_left` and `merge_right` mutually recursive functions (of type `T -> seq T -> seq T -> seq T`), but it makes little difference to the local proof, and I'm not sure of the value of adding two additional definitions in the library just for this sake.

[the remark this answers is not in the document]
Comment (ggonthier) [reply mathcomp/ssreflect/path.v]: Also, if you're looking into this, some of my indications for required premises are wrong, and it looks like the basic lemma one wants to show is one about lexicographic order. Here's my second take at it, including some tentative additions to `ssrbool` and `seq`:
```
Section BoolRel.

Context {T : Type}.

Definition relV (r : rel T) := [rel x y | r y x].

Definition relC (r : rel T) := [rel x y | ~~ r x y].

Definition relI (r1 r2 : rel T) := [rel x y | r1 x y && r2 x y].

Definition condrel (r1 r2 : rel T) := [rel x y | r1 x y ==> r2 x y].

Definition optrel (r : rel T) := [rel x y | oapp (oapp r xpredT x) false y].

Definition lexrel (r1 r2 : rel T) := [rel x y | r1 x y && (r1 y x ==> r2 x y)].

Lemma lexrel_trans r1 r2 :
  transitive r1 -> transitive r2 -> transitive (lexrel r1 r2).
Proof.
move=> r1tr r2tr y x z /andP[le1xy /implyP-le2xy] /andP[le1yz /implyP-le2yz] /=.
rewrite (r1tr y) //; apply/implyP=> r1zx.
by apply/(r2tr y); [apply/le2xy/(r1tr z) | apply/le2yz/(r1tr x)].
Qed.

Lemma lexrel_total r1 r2 : total r1 -> total r2 -> total (lexrel r1 r2).
Proof.
move=> r1T r2T x y; move: (r1T x y) (r2T x y); rewrite /total /=.
by do 2!case: (r1).
Qed.

End BoolRel.

Arguments nilp {T} s.

Section SeqRel.

Context {T : Type}.

Definition allrel (r : rel T) s t := all (fun x => all (r x) t) s.

Definition hasrel (r : rel T) s t := has (fun x => has (r x) t) s.

Lemma allrelC r s t : allrel (relC r) s t = ~~ hasrel r s t.
Proof. by rewrite -all_predC; apply/eq_all=> x; rewrite all_predC. Qed.

Lemma hasrelC r s t : hasrel (relC r) s t = ~~ allrel r s t.
Proof. by rewrite -has_predC; apply/eq_has=> x; rewrite has_predC. Qed.

Lemma allrelV r s t : allrel (relV r) t s = allrel r s t.
Proof.
by elim: t => /= [|y t ->]; rewrite ?[RHS]all_predT // -all_predI; apply/eq_all.
Qed.

Lemma hasrelV r s t : hasrel (relV r) t s = hasrel r s t.
Proof. by apply/negb_inj; rewrite -!allrelC allrelV. Qed.

Lemma allrel_trans r: transitive r -> {in predC nilp, transitive (allrel r)}.
Proof.
move=> r_tr [|y t] //= _ s u rst /andP[ryu _].
by apply: sub_all rst => x /andP[rxy _]; apply: sub_all ryu => z; apply: r_tr.
Qed.

Lemma all_mask (a : pred T) m s : all a s -> all a (mask m s).
Proof. by apply: contraLR; rewrite -!has_predC => /has_mask. Qed.

Lemma pathI (e1 e2 : rel T) x p :
  path (relI e1 e2) x p = path e1 x p && path e2 x p.
Proof. by elim: p x => //= y p IHp x; rewrite andbACA -IHp. Qed.

End SeqRel.

Section Sorted.

Variables (T : Type) (leT : rel T).

Definition sorted s := if s is x :: s' then path leT x s' else true.

Lemma path_sorted x s : path leT x s -> sorted s.
Proof. by case: s => //= y s /andP[]. Qed.

Lemma path_min_sorted x s : all (leT x) s -> path leT x s = sorted s.
Proof. by case: s => //= y s /andP[->]. Qed.

Lemma cat_sorted_r s1 s2 : sorted (s1 ++ s2) -> sorted s1 /\ sorted s2.
Proof.
by elim: s1 => //= x1 s1 IHs; rewrite cat_path => /andP[-> /path_sorted].
Qed.

Hypothesis leT_tr : transitive leT.

Lemma path_sortedP {x s} : reflect (all (leT x) s /\ sorted s) (path leT x s).
Proof.
elim: s x => [|y s IHs] x; [by left | rewrite /= -{IHs}(sameP andP (IHs y))].
apply: (iffP andP) => [[leTxy]|[]] /andP[// leTys ->]; rewrite leTxy leTys.
by rewrite (sub_all _ leTys) // => z; apply: leT_tr leTxy.
Qed.

Lemma order_path_min x s : path leT x s -> all (leT x) s.
Proof. by case/path_sortedP. Qed.

Lemma cat_sorted s1 s2 :
  sorted (s1 ++ s2) = [&& sorted s1, sorted s2 & allrel leT s1 s2].
Proof.
elim: s1 => [|x1 s1 IHs] /=; first by rewrite andbT.
by rewrite !(sameP path_sortedP andP) all_cat IHs -!andbA !(andbCA (all _ s2)).
Qed.

Lemma mask_sorted m s : sorted s -> sorted (mask m s).
Proof.
elim: s m => [|x s IHs] [|b m] //; rewrite mask_cons cat_sorted /allrel /=.
by rewrite all_nseq => /path_sortedP[/all_mask-> /IHs->]; case: b.
Qed.

Lemma filter_sorted a s : sorted s -> sorted (filter a s).
Proof. by move=> ord_s; rewrite filter_mask mask_sorted. Qed.

End Sorted.

Lemma sortedI {T} (r1 r2 : rel T) s :
  sorted (relI r1 r2) s = sorted r1 s && sorted r2 s.
Proof. by case: s => //= x s; rewrite pathI. Qed.

Section EqSorted.

Context {T : eqType} (leT : rel T).
Hypothesis leT_tr : transitive leT.

Lemma subseq_sorted s1 s2 : subseq s1 s2 -> sorted leT s2 -> sorted leT s1.
Proof. by case/subseqP=> m _ -> /mask_sorted->. Qed.

Lemma eq_sorted (leT_asym : antisymmetric leT) s1 s2 :
  sorted leT s1 -> sorted leT s2 -> perm_eq s1 s2 -> s1 = s2.
Proof.
elim: s2 s1 => [|x2 s2 IHs] s1 ord_s1; first by move=> _ /perm_nilP.
case/path_sortedP=> // leTxs2 ord_s2 eq_s12.
have: x2 \in s1 by rewrite (perm_mem eq_s12) mem_head.
case: s1 ord_s1 => //= x1 s1 /path_sortedP[//|leTxs1 ord_s1] in eq_s12 *.
have: x1 \in x2 :: s2 by rewrite -(perm_mem eq_s12) mem_head.
rewrite !inE eq_sym; case: eqP eq_s12 => [-> | x1'2 _ /= s2x1 s1x2].
  by rewrite perm_cons => /IHs->.
by case: x1'2; apply/leT_asym; rewrite (allP leTxs2) ?(allP leTxs1).
Qed.

Hypothesis leT_irr : irreflexive leT.

Lemma sorted_uniq s : sorted leT s -> uniq s.
Proof.
elim: s => //= x s IHs /path_sortedP[//|/allP-leTxs /IHs->].
by rewrite (contraFN (leTxs x)) ?leT_irr.
Qed.

Lemma eq_sorted_irr s1 s2 :
  sorted leT s1 -> sorted leT s2 -> s1 =i s2 -> s1 = s2.
Proof.
move=> ord_s1 ord_s2 eq_s12; apply/eq_sorted=> // [x y /andP[ltxy ltyx]|].
  by have:= leT_irr x; rewrite (leT_tr ltxy ltyx).
by apply/uniq_perm=> //; apply: sorted_uniq.
Qed.

End EqSorted.

Section MergeSort.

Context {T : Type} (leT : rel T).

Fixpoint merge s1 :=
  if s1 isn't x1 :: s1r then id else fix merge_s1 s2 :=
  if s2 isn't x2 :: s2r then s1 else
  if leT x1 x2 then x1 :: merge s1r s2 else x2 :: merge_s1 s2r.

Local Fixpoint merge_sort_push s1 ss :=
  match ss with
  | [::] :: ss' | [::] as ss' => s1 :: ss'
  | s2 :: ss' => [::] :: merge_sort_push (merge s2 s1) ss'
  end.

Local Fixpoint merge_sort_pop s1 ss :=
  if ss is s2 :: ss' then merge_sort_pop (merge s2 s1) ss' else s1.

Local Fixpoint merge_sort_rec ss s :=
  if s is [:: x1, x2 & s'] then
    let s1 := if leT x1 x2 then [:: x1; x2] else [:: x2; x1] in
    merge_sort_rec (merge_sort_push s1 ss) s'
  else merge_sort_pop s ss.

Definition sort := merge_sort_rec [::].

Lemma count_merge a s1 s2 : count a (merge s1 s2) = count a s1 + count a s2.
Proof.
elim: s1 s2 => //= x1 s1 IHs1; elim=> [|x2 s2 IHs2] /=; first by rewrite addn0. 
by case: leT => /=; [rewrite IHs1 addnA | rewrite IHs2 addnCA].
Qed.

Lemma size_merge s1 s2 : size (merge s1 s2) = size s1 + size s2.
Proof. by rewrite -!count_predT count_merge. Qed.

Let allrel_merge r s t u (sr := (allrel r)^~ u) : sr (merge s t) = sr s && sr t.
Proof.
rewrite -all_cat all_count count_cat size_cat.
by rewrite [LHS]all_count count_merge size_merge.
Qed.

Let sort_rec1 := fix sort_rec1 ss s :=
  if s is x :: s then sort_rec1 (merge_sort_push [:: x] ss) s else
  merge_sort_pop [::] ss.

Let sortE s : sort s = sort_rec1 [::] s.
Proof.
transitivity (sort_rec1 [:: nil] s); last by case: s.
rewrite /sort; move: [::] {2}_.+1 (ltnSn (size s)./2) => ss n.
by elim: n => // n IHn in ss s *; case: s => [|x [|y s]] //= /IHn->.
Qed.

Lemma count_sort a s : count a (sort s) = count a s.
Proof.
rewrite -[RHS]/(sumn (map (count a) [::]) + count a s) sortE.
elim: s [::] => [|x s IHs] ss /=.
  set s1 := [::]; rewrite -[0]/(count a s1); elim: ss s1 => //= s2 ss IHss s1.
  by rewrite addnAC addnC -count_merge -IHss.
rewrite {}IHs addnA -(muln1 (a x)) -count_nseq [nseq 1 x]/=; congr (_ + _).
elim: ss {x}[:: x] => [|[|x s2] ss IHss] s1 //=; try by rewrite addnC.
by rewrite IHss (count_merge a (_ :: _)) add0n addnCA addnA.
Qed.

Local Remark size_merge_sort_push s1 :
  let graded ss := forall i, size (nth [::] ss i) \in pred2 0 (2 ^ (i + 1)) in
  size s1 = 2 -> {homo merge_sort_push s1 : ss / graded ss}.
Proof.
set n := {2}1; rewrite -[RHS]/(2 ^ n) => graded sz_s1 ss.
elim: ss => [|s2 ss IHss] in (n) graded s1 sz_s1 * => sz_ss i //=.
  by case: i => [|[]] //; rewrite sz_s1 inE eqxx orbT.
case: s2 i => [|x s2] [|i] // in sz_ss *; first by rewrite sz_s1 inE eqxx orbT.
  exact: (sz_ss i.+1).
rewrite addSnnS; apply: IHss i => [|i]; last by rewrite -addSnnS (sz_ss i.+1).
by rewrite size_merge sz_s1 (eqnP (sz_ss 0)) addnn expnS mul2n.
Qed.

Section Stable.

Variable leT0 : rel T.

Notation leT0s := (allrel leT0).
Let leT1 := relU (relC (relV leT)) (relI leT leT0).
Let leTlex := lexrel leT leT0.

Lemma merge_stable s1 s2 :
  leT0s s1 s2 -> sorted leT1 s1 -> sorted leT1 s2 -> sorted leT1 (merge s1 s2).
Proof.
have sorted_opt s : sorted leT1 s = path (optrel leT1) None (map Some s).
  by case: s => //= x s; elim: s x => //= y s IHs x; rewrite IHs.
rewrite !sorted_opt; elim: s1 s2 None => //= x s IHs; elim=> //= y t IHt w.
case/andP=> /andP[le0xy le0xt] le0st /andP[le1wx le1xs] /andP[le1wy le1yt].
have [leTxy | le'xy] /= := ifP; first by rewrite le1wx IHs //= leTxy le0xy orbT.
by rewrite le1wy IHt /= ?le'xy // le0xt; apply: sub_all le0st => z /andP[].
Qed.

Hypothesis leT0_tr : transitive leT0.

Lemma sort_stable s : sorted leT0 s -> sorted leT1 (sort s).
Proof.
pose no_nil := filter (predC (@nilp T)); pose leT0s_tr := allrel_trans leT0_tr.
pose stackp t ss := all (sorted leT1) ss && path (relV leT0s) t (no_nil ss).
have stackp_rec t u v ss: stackp t (u :: v :: ss) -> stackp t (merge v u :: ss).
  case: v u => // y v [] // x u; rewrite /stackp [y :: v]lock [x :: u]lock /=.
  rewrite !ifT /= -!lock //; last by rewrite -lt0n size_merge.
  case/and4P=> /and3P[le1yv le1xu ->] le0ut le0vu; rewrite merge_stable //.
  rewrite allrel_merge (leT0s_tr (x :: u)) // le0ut [y :: v]lock.
  case/no_nil: ss => //= w ss; rewrite -lock => /andP[le0wv {ss}->].
  by rewrite -allrelV allrel_merge 2!allrelV le0wv (leT0s_tr (y :: v)).
rewrite sortE; elim: s [::] (isT : stackp s [::]) => /= [|x s IHs] ss ssP.
  clear 1; set s := [::]; rewrite -[stackp _ _]/(stackp [::] (s :: ss)) in ssP.
  elim: ss => [|t ss IHss] in (s) ssP *; first by case/andP: ssP => /andP[].
  exact/IHss/stackp_rec.
set t := [:: x] => /path_sortedP[//|leT0xs]; apply: IHs.
have{ssP leT0xs}: stackp s (t :: ss).
  case/andP: ssP; rewrite /stackp /= leT0xs => ->; case/no_nil: ss => //= w ss.
  by rewrite -!(allrelV leT0) /= andbT andbAC => /andP[].
by elim: ss => [|[|y u] ss IHss] // in {x}(t) * => /stackp_rec/IHss.
Qed.

Hypothesis leT_total : total leT.

Let leTlexE s : sorted leTlex s = sorted leT1 s.
Proof.
case: s => // x0 s; apply/eq_path=> x y {x0 s} /=.
by rewrite implybE; case: (leT x y) (leT_total x y) => //= ->.
Qed.

Lemma merge_lex_sorted s1 s2 :
    leT0s s1 s2 -> sorted leTlex s1 -> sorted leTlex s2 ->
  sorted leTlex (merge s1 s2).
Proof. by rewrite !leTlexE; apply: merge_stable. Qed.

Lemma sort_lex_sorted s : sorted leT0 s -> sorted leTlex (sort s).
Proof. by rewrite leTlexE; apply: sort_stable. Qed.

End Stable.

Section Sorted.

Hypothesis leT_total : total leT.

Let relT := [rel x y : T | true].
Let leTlexE s : sorted (lexrel leT relT) s = sorted leT s.
Proof. by case: s => // *; apply/eq_path=> x y /=; rewrite implybT andbT. Qed.

Lemma merge_sorted s1 s2 :
  sorted leT s1 -> sorted leT s2 -> sorted leT (merge s1 s2).
Proof.
rewrite -!leTlexE; apply: merge_lex_sorted => //.
by apply: sub_all (all_predT s1) => x /=; rewrite all_predT.
Qed.

Lemma sort_sorted s : sorted leT (sort s).
Proof.
by rewrite -!leTlexE sort_lex_sorted //; case: s => //= x s; elim: s x => /=.
Qed.

End Sorted.

End MergeSort.
```
I'm not entirely satisfied with this because the `leT1` relation isn't the strongest possible, and strengthening it would make it difficult to prove `merge_lex_sorted`. An alternative would be to prove the stability lemmas only for `iota` sequences, taking `leT0` = `leq` or `ltn`, and use the `map (nth ...)` theory to derive the final results.

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: OK. I will prove the stability lemmas only for `iota` sequence, then derive others from it.

File: mathcomp/ssreflect/path.v [hunk 18]
```diff
@@ -375,22 +395,201 @@ Qed.
 
 End EqPath.
 
+Section EqHomoPath.
+
+Variables (T T' : eqType) (leT : rel T) (leT' : rel T').
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: `T'` is not required to be `eqType` here.

File: mathcomp/ssreflect/path.v [hunk 19]
```diff
@@ -565,11 +694,51 @@ apply: eq_sorted; rewrite ?sort_sorted //.
...
+
+Lemma size_sort (T : Type) (leT : rel T) s :
+  size (sort leT s) = size s.
+Proof.
+case: s => [|x s] //; have [s1 pp qq] := perm_iota_sort leT x (x :: s).
+by rewrite qq size_map (perm_size pp) size_iota.
+Qed.
+
+Section EqHomoSortSeq.
+Variables (T T' : eqType) (f : T' -> T) (leT' : rel T') (leT : rel T).
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: `T` is not required to be `eqType`, at least for `homo_sorted_in` and `mono_sorted_in`.

**Comment by pi8027** [comment]
I have proved the stability lemmas. https://github.com/pi8027/math-comp/tree/more-abstract-sort-april-19

**Comment by CohenCyril** [comment]
> I have proved the stability lemmas. https://github.com/pi8027/math-comp/tree/more-abstract-sort-april-19

@pi8027 please open a new PR.

File: mathcomp/ssreflect/path.v [hunk 20]
```diff
@@ -565,11 +694,51 @@ apply: eq_sorted; rewrite ?sort_sorted //.
...
+Lemma homo_sorted_in s : {in s &, {homo f : x y / leT' x y >-> leT x y}} ->
+  sorted leT' s -> sorted leT [seq f x | x <- s].
+Proof. by case: s => //= x s /homo_path_in. Qed.
+
+Lemma mono_sorted_in s : {in s &, {mono f : x y / leT' x y >-> leT x y}} ->
+  sorted leT [seq f x | x <- s] = sorted leT' s.
+Proof. by case: s => // x s /mono_path_in /= ->. Qed.
+
+Hypothesis (leT'_sym : antisymmetric leT) (leT_tr : transitive leT).
+Hypothesis (leT'_total : total leT') (leT_total : total leT).
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v]: One could prove `sort_map_in` without the use of `leT_total : total leT`, but one of the following variants of sort_sorted would be needed. :/
```
sort_sorted_in : forall (T : eqType) (leT : rel T) (s : seq T), {in s &, total leT} -> sorted leT (sort leT s)
or
sort_sorted_in : forall (T : Type) (P : pred T) (leT : rel T) (s : seq T), all P s -> {in P &, total leT} -> sorted leT (sort leT s).
```

File: mathcomp/solvable/abelian.v [hunk 21]
```diff
@@ -1766,7 +1766,7 @@ case/predU1P: b_y => [-> // | b'_y].
 have:= abelian_type_dvdn_sorted G; rewrite -def_t def_b.
 case/splitPr: b'_y => b1 b2; rewrite -cat_rcons rcons_cat map_cat !map_rcons.
 rewrite headI /= cat_path -(last_cons 2) -headI last_rcons.
-case/andP=> _ /order_path_min min_y.
+case/andP=> _ /(@order_path_min nat) min_y.
 apply: (allP (min_y _)) => [? ? ? ? dv|]; first exact: (dvdn_trans dv).
```
[the remark this answers is not in the document]
Comment (anton-trunov) [reply mathcomp/solvable/abelian.v]: @ggonthier It's probably some GitHub glitch, because I can't find the `Arguments` annotation for `order_path_min` you were referring to.

[the remark this answers is not in the document]
Comment (anton-trunov) [reply mathcomp/solvable/abelian.v]: If that was one of the short remarks above, then it seems that just making arguments `T`, `leT`, `x` and `s` implicit and maximally inserted doesn't work.

[the remark this answers is not in the document]
Comment (ggonthier) [reply mathcomp/solvable/abelian.v]: You are right, it doesn't, because `path_min_sorted` has non-prenex implicits. See https://github.com/math-comp/math-comp/pull/358#discussion_r295259267
for possible fixes, and #220 for the main thread on this topic.

**Comment by amahboubi** [comment]
@CohenCyril @pi8027 It would be great to write a comment here clarifying the status of this PR with respect to #358

**Comment by CohenCyril** [comment]
> @CohenCyril @pi8027 It would be great to write a comment here clarifying the status of this PR with respect to #358

This PR was subsumed by #358, so it is now closed.
